US07977331B1
To a solution of 1-iodo-4-methyl-2-nitrobenzene (5.00 g, 19 mmol) in tetrahydrofuran (12.5 ml), methanol (25 ml) and water (6.3 ml) were added reduced iron (5.30 g, 95 mmol) and ammonium chloride (6.10 g, 114 mmol), and the mixture was stirred overnight at 70° C. The reaction mixture was allowed to cool to room temperature, tetrahydrofuran (50 ml) was added to the reaction mixture. After filtration through celite, the filtrate was concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. To a solution of the residue in ethyl acetate (20 ml) was added 4N HCl-ethyl acetate solution (10 ml). The precipitated solid was collected by filtration, washed with ethyl acetate, and dried in vacuo to give 2-iodo-5-methylphenylamine hydrochloride (2.56 g, yield 50%).

reactant | 1-iodo-4-methyl-2-nitrobenzene | 19 mmol, 5.00 g | IC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6INO2
reactant | ammonium chloride | 114 mmol, 6.10 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 12.5 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 6.3 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-iodo-5-methylphenylamine hydrochloride | 2.56 g, yield 50% | Cl.IC1=C(C=C(C=C1)C)N | InChI=1S/C7H8IN.ClH/c1-5-2-3-6(8)7(9)4-5;/h2-4H,9H2,1H3;1H
